US07902187B2
2-(2-amino-5-chlorophenylamino)-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one.
To a vial containing 2-(5-chloro-2-nitrophenylamino)-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one (7 mg, 0.015 mmol) was added glacial acetic acid (0.5 mL), water (1.25 mL) and ethanol (2.5 mL), followed by iron powder (8.4 mg, 0.15 mmol, 10 equiv.) and the resulting mixture heated at 90° C. for 15 min (HPLC monitoring). The reaction mixture was left to cool down to room temperature, concentrated ammonium hydroxide solution was added to bring the pH to basic, and the mixture was stirred for 10 min. The aqueous layer was extracted with ethyl acetate, the combined organic layers were washed with brine, dried (anhydrous Na2SO4), and the solvent removed in vacuo to give the desired product as a pale yellow solid (yield quantitative). This material was used in the next step without further purification. MS (EI) m/z 438.3 (MH)+.

reactant | 2-(5-chloro-2-nitrophenylamino)-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | 0.015 mmol, 7 mg | ClC=1C=CC(=C(C1)NC1=NC(=C2NC(N(C2=N1)C1CCOCC1)=O)C1=CC=NC=C1)[N+](=O)[O-] | C21H18ClN7O4
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
reactant | water | 1.25 mL | O | H2O
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | iron | 0.15 mmol, 8.4 mg, 10 equiv. | [Fe] | Fe
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | 2-(2-amino-5-chlorophenylamino)-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | NC1=C(C=C(C=C1)Cl)NC1=NC(=C2NC(N(C2=N1)C1CCOCC1)=O)C1=CC=NC=C1 | C21H20ClN7O2
